* This is the linear potentiometer
*      _____
*  1--|_____|--3
*        |
*        2
*
.SUBCKT linearpot 1 2 3
.param wl=limit(w,1m,.999)
R0 1 2 {R*(wl)}
R1 2 3 {R*(1-wl)}
.ENDS